US04568377
2-Phenyl-3-oxo-4-(3-methoxycarbonylphenyl)-5-amino-2,3-dihydrofuran
In this example 0.4 g of water was admixed with 6.5 g of (3-methoxycarbonylphenyl)-benzylcarbonyl-acetonitrile in about 40 ml of methylene chloride at room temperature. 1.1 ml of bromine in about 10 ml of methylene chloride was added dropwise at room temperature. After addition of the bromine, the reaction mixture was mixed with saturated aqueous sodium bicarbonate and stirred for about 1/2 hour at room temperature, resulting in a two-phase liquid mixture. The phases were separated. The aqueous phase was extracted three times with methylene chloride. The combined extracts and methylene chloride phase were washed twice with saturated aqueous sodium bicarbonate, dried over magnesium sulfate and concentrated by evaporation affording an oily residue. The residue was triturated with a mixture of ethyl ether and petroleum ethers affording 5.0 g of the title compound as a solid.

reactant | water | 0.4 g | O | H2O
reactant | (3-methoxycarbonylphenyl)-benzylcarbonyl-acetonitrile | 6.5 g | COC(=O)C=1C=C(C=CC1)C(C#N)C(=O)CC1=CC=CC=C1 | C18H15NO3
reactant | bromine | 1.1 ml | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | about 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Phenyl-3-oxo-4-(3-methoxycarbonylphenyl)-5-amino-2,3-dihydrofuran | C1(=CC=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(=O)OC)N | C18H15NO4
